US08664220B2
Step 3: 1-{4′-[3-Methyl-4-(3-phenyl-pyrazol-1-ylmethyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid
1-[4′-(4-Bromomethyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester (0.132 g, 0.3 mmol) and 3-phenyl-1H-pyrazole (0.043 g, 0.3 mmol) were combined in DMF. Sodium hydride (60% in mineral oil; 0.014 g, 0.35 mmol) was added, and the reaction was stirred at room temperature for 1.5 hours. Once no starting material was seen by analytical LCMS, the mixture was diluted with EtOAc and 1N aqueous HCl. The aqueous layer was extracted with EtOAc, and the combined organic layers were washed with H2O and brine, and then dried over Na2SO4, filtered, and concentrated. The residue was purified by preparative HPLC to give the title compound.

reactant | 1-[4′-(4-Bromomethyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | 0.3 mmol, 0.132 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CBr | C23H22BrNO3
reactant | 3-phenyl-1H-pyrazole | 0.3 mmol, 0.043 g | C1(=CC=CC=C1)C1=NNC=C1 | C9H8N2
reactant | Sodium hydride | 0.35 mmol, 0.014 g | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | HCl | 1N | Cl | ClH
product | 1-{4′-[3-Methyl-4-(3-phenyl-pyrazol-1-ylmethyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid | CC1=NOC(=C1CN1N=C(C=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)O | C30H25N3O3
